US08629163B2
Preparation of 5,5′,5″,5′″-(1,2,4,5-benzentetrayl)-tetrakis-(pentan-1-ol)
5,5′,5″,5′″-(1,2,4,5-benzentetrayl)tetrakis-4-pentyn-1-ol (2.01 g, 4.95 mmol) was dissolved in methanol (30 mL) and 10% Pd/C (5% w/w) was added. The resulting mixture was hydrogenated on a Parr hydrogenation apparatus (45 psig) for 4 hrs. The catalyst was removed by filtration through a Celite pad. The filter cake was rinsed with methanol, and the combined organic liquors were concentrated under reduced pressure. The crude product was purified by column chromatography (CHCl3:MeOH, 10:1) to afford 1.97 g of the title compound. Yield: 95%. 1H NMR (300 MHz, CDCl3) δ 6.81 (s, 3H), 3.62 (t, J=6.3 Hz, 6H), 2.57 (t, J=7.5 Hz, 6H), 1.53-1.70 (m, 12H), 1.38 (m, 6H) ppm; 13C NMR (75 MHz, CDCl3) δ 142.5, 126.1, 63.1, 36.1, 32.9, 31.5, 25.7 ppm.

reactant | 5,5′,5″,5′″-(1,2,4,5-benzentetrayl)tetrakis-4-pentyn-1-ol | 4.95 mmol, 2.01 g | C1(=C(C=C(C(=C1)C#CCCCO)C#CCCCO)C#CCCCO)C#CCCCO | C26H30O4
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5,5′,5″,5′″-(1,2,4,5-benzentetrayl)-tetrakis-(pentan-1-ol) | 1.97 g, Yield: 95% | C1(=C(C=C(C(=C1)CCCCCO)CCCCCO)CCCCCO)CCCCCO | C26H46O4
